US06613743B2
A mixture of tert-butyl N-[(1S,2R)-1-benzyl-4-(cyclopentyloxy)-2-hydroxy-4-(6-quinoxalinylsulfonyl)butyl]carbamate (563 mg, 1.01 mmol) and trifluoroacetic acid (5 mL) was stirred under an Argon atmosphere for 0.5 hrs. The acid was removed in vacuo and the residue was partitioned between dichloromethane and 1N sodium hydroxide. The organic layer was separated and the aqueous layer was extracted again with dichloromethane. The combined organic layers were dried over anhydrous sodium sulfate, filtered and evaporated in vacuo. The crude product was purified on flash grade silica gel eluting with dichloromethane : methanol (98:2). Fractions containing the product were combined and evaporated in vacuo and dried under high vacuum to provide (3R,4S)-4-amino-1-(cyclopentyloxy)-5-phenyl-1-(6-quinoxalinylsulfonyl)-3-pentanol as a foam (379 mg, 82%). H1-NMR (chloroform-D3): 1.66 (m, 11H), 2.51 (m, 1H), 2.86 (m, 1H), 3.07 (m, 1H), 3.23 (m, 1H), 3.32 (m, 1H), 3.84 (m, 1H), 4.90 (m, 1H), 7.20 (m, 5H), 8.16 (m, 1H), 8.28 (d, 1H), 8.70 (m, 1H), 8.99 (m, 2H<. MS(ESI): 457(M+H).

reactant | tert-butyl N-[(1S,2R)-1-benzyl-4-(cyclopentyloxy)-2-hydroxy-4-(6-quinoxalinylsulfonyl)butyl]carbamate | 1.01 mmol, 563 mg | C(C1=CC=CC=C1)[C@@H]([C@@H](CC(S(=O)(=O)C=1C=C2N=CC=NC2=CC1)OC1CCCC1)O)NC(OC(C)(C)C)=O | C29H37N3O6S
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (3R,4S)-4-amino-1-(cyclopentyloxy)-5-phenyl-1-(6-quinoxalinylsulfonyl)-3-pentanol | 379 mg, 82% | N[C@H]([C@@H](CC(S(=O)(=O)C=1C=C2N=CC=NC2=CC1)OC1CCCC1)O)CC1=CC=CC=C1 | C24H29N3O4S
